US04036975
A suspension of 1 g. of 1-[2-(1-adamantyl)-2-(3,4-dichlorophenylthio)ethyl]imidazole nitrate in 100 ml. of dichloromethane is treated with excess aqueous potassium carbonate until a pH of about 11 is obtained. Thereafter, the suspension is shaken until a solution is obtained. The organic phase is then separated, washed with water, dried over magnesium sulfate and evaporated to dryness to yield 1-[2-(1-adamantyl)-2-(3,4-dichlorophenylthio)ethyl]imidazole.

reactant | 1-[2-(1-adamantyl)-2-(3,4-dichlorophenylthio)ethyl]imidazole nitrate | [N+](=O)(O)[O-].C12(CC3CC(CC(C1)C3)C2)C(CN2C=NC=C2)SC2=CC(=C(C=C2)Cl)Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[2-(1-adamantyl)-2-(3,4-dichlorophenylthio)ethyl]imidazole | C12(CC3CC(CC(C1)C3)C2)C(CN2C=NC=C2)SC2=CC(=C(C=C2)Cl)Cl | C21H24Cl2N2S
